US04195983
Ethyl-N-(hydroxyphosphinylmethyl)-N-(trifluoroacetyl)glycinate (2.8 g.) was dissolved in benzene and added dropwise to excess phosphorus trichloride with stirring. The solution was filtered and the supernatant liquid decanted and evaporated under vacuum to yield ethyl-N-(trifluoroacetyl)-N-[bis(chloro)phosphinomethyl]glycine as a clear oil. The clear oil was dissolved in tetrahydrofuran and a solution of methane thiol (0.96 g.) and triethylamine (2.05 g.) dissolved in tetrahydrofuran added with stirring. After stirring for an additional one hour, sulfur (0.32 g.) was added and the solution stirred overnight. The reaction mixture was then filtered and the solvent removed under vacuum. The residue was chromatographed on silica gel employing dichloromethane to yield ethyl-N-(trifluoroacetyl)-N-[bis(methanethio)phosphinothioylmethyl]glycine as an oil, ND25 =1.5132 and having the following analysis.

reactant | Ethyl-N-(hydroxyphosphinylmethyl)-N-(trifluoroacetyl)glycinate | 2.8 g | C(C)OC(CN(C(C(F)(F)F)=O)CP(=O)O)=O | C7H11F3NO5P
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | benzene | C1=CC=CC=C1 | C6H6
product | ethyl-N-(trifluoroacetyl)-N-[bis(chloro)phosphinomethyl]glycine | C(C)C(N(CP(Cl)Cl)C(C(F)(F)F)=O)C(=O)O | C7H9Cl2F3NO3P
